US05972965
A mixture of 3-[3-(tert-butyldiphenylsilyloxy)phenyl]-1-(4,5-diphenyl-2-oxazolyl)-1-propanone (526 mg), ethyl bromoacetate (1.61 g), and K2CO3 (1.34 g) in N,N-dimethylformamide (2.0 ml) was stirred at room temperature for 5 hours and poured into ethyl acetate-water. The organic layer was separated, washed with water (three times) and brine, dried over MgSO4, and evaporated in vacuo. The residue was chromatographed over silica gel to afford ethyl 3-[3-(tert-butyldiphenylsilyloxy)benzyl]-4-(4,5-diphenyl-2-oxazolyl)-4-oxobutyrate (436 mg) as an oil-(+) APCI-MS (m/z): 694 (M+ +1) IR (Nujol): 1740, 1700, 1600, 1580 cm-1

reactant | 3-[3-(tert-butyldiphenylsilyloxy)phenyl]-1-(4,5-diphenyl-2-oxazolyl)-1-propanone | 526 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC=1C=C(C=CC1)CCC(=O)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C40H37NO3Si
reactant | ethyl bromoacetate | 1.61 g | BrCC(=O)OCC | C4H7BrO2
reactant | K2CO3 | 1.34 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate water | C(C)(=O)OCC.O
solvent | N,N-dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[3-(tert-butyldiphenylsilyloxy)benzyl]-4-(4,5-diphenyl-2-oxazolyl)-4-oxobutyrate | 436 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC=1C=C(CC(CC(=O)OCC)C(=O)C=2OC(=C(N2)C2=CC=CC=C2)C2=CC=CC=C2)C=CC1 | C44H43NO5Si
